US06509328B1
4-(3-Chloro-phenyl)-8-phenylethynyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G2) and 6-(3-chloro-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J6) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as an orange solid (155 mg).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 6-(3-chloro-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | ClC=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C12H11ClO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Chloro-phenyl)-8-phenylethynyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 155 mg | ClC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C#CC2=CC=CC=C2 | C23H15ClN2O
